US08247408B2
8-Ethyl-2-{[4-(4-ethylpiperazin-1-yl)phenyl]amino}-4-methyl-6-phenylpyrido[2,3-d]pyrimidin-7(8H)-one
8-Ethyl-4-methyl-2-(methylsulfonyl)-6-phenylpyrido[2,3-d]pyrimidin-7(8H)-one (275 mg, 0.80 mmol) and 4-(4-ethylpiperazin-1-yl)aniline (197 mg, 1.2 equiv.) were added to dimethyl sulfoxide (5 mL) and the resulting mixture was heated to 100° C. and stirred overnight. After cooling to room temperature, the reaction was partitioned between aqueous and organic layers with ethyl acetate and H2O, organic layer was dried with anhydrous magnesium sulfate, filtered and evaporated, and directly applied to prep-LC to provide the title compound in (210.0 mg, 56% yield): 1H NMR (400 MHz, CDCl3): δ 7.80 (s, 1H), 7.62 (d, 2H), 7.60 (d, 2H), 7.40 (m, 2H), 7.18 (s, 1H), 6.95 (d, 2H), 4.50 (q, 2H), 3.22 (m, 4H), 2.70 (m, 4H), 2.60 (s, 3H), 2.50 (m, 2H), 1.40 (t, 3H), 1.20 (t, 3H); MS (EI) for C28H32N6O: 469.10 (MH+).

reactant | 8-Ethyl-4-methyl-2-(methylsulfonyl)-6-phenylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.80 mmol, 275 mg | C(C)N1C(C(=CC2=C1N=C(N=C2C)S(=O)(=O)C)C2=CC=CC=C2)=O | C17H17N3O3S
reactant | 4-(4-ethylpiperazin-1-yl)aniline | 197 mg, 1.2 equiv. | C(C)N1CCN(CC1)C1=CC=C(N)C=C1 | C12H19N3
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 8-Ethyl-2-{[4-(4-ethylpiperazin-1-yl)phenyl]amino}-4-methyl-6-phenylpyrido[2,3-d]pyrimidin-7(8H)-one | 56% yield | C(C)N1C(C(=CC2=C1N=C(N=C2C)NC2=CC=C(C=C2)N2CCN(CC2)CC)C2=CC=CC=C2)=O | C28H32N6O
